US07485732B2
Step 6: 3-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-3-(3,5-difluorophenyl)-2,2-dimethylpropanenitrile
The reaction mixture of 128 mg (0.255 mmol) of 3-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-3-(3,5-difluorophenyl)-3-hydroxy-2,2-dimethylpropanenitrile and 3 mL of phosphorus oxychloride in 5 mL of pyridine was heated at reflux for 48 h. The solution was concentrated, poured into 30 mL of ether, and washed with 5 mL of aq NaHCO3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate=4:1 to afford the title compound. 1NMR(CDCl3) δ 1.47 (s, 6H), 3.48 (s, 2H), 4.18 (s, 2H), 4.47 (s, 1H), 6.66-6.77 (m, 2H), 7.25-6-7.35 (m, 8H); Mass Spectrum: m/e=483 (M+1 35Cl, 35Cl) and 485 (M+1 35Cl, 37Cl).

reactant | 3-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-3-(3,5-difluorophenyl)-3-hydroxy-2,2-dimethylpropanenitrile | 0.255 mmol, 128 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C#N)(C)C)(O)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C27H24Cl2F2N2O
reactant | phosphorus oxychloride | 3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-{1-[Bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-3-(3,5-difluorophenyl)-2,2-dimethylpropanenitrile | ClC1=CC=C(C=C1)C(N1CC(C1)=C(C(C#N)(C)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C27H22Cl2F2N2
